US04523030
5.71 g of 4-(o-methylthiobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester are dissolved in 70 ml of ether; 45 ml of 2N sodium hydroxide solution are added and stirring is carried out for 1 hour at room temperature. The aqueous phase is separated off and the ether phase is extracted by shaking twice with 25 ml of water each time. The aqueous phases are combined, acidified with 2N hydrochloric acid and extracted three times with 50 ml of dichloromethane each time. The extracts are combined, washed with water, dried over magnesium sulphate and concentrated by evaporation. After recrystallisation of the residue from dichloromethane/hexane, 4-(o-methylthiobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid is obtained having a melting point of 177°-178°.

reactant | 4-(o-methylthiobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester | 5.71 g | COC(=O)C1=CC2=C1C=C(C(=C2)C(C2=C(C=CC=C2)C)=S)O | C18H14O3S
reactant | sodium hydroxide | 2N, 45 ml | [OH-].[Na+]
solvent | ether | 70 ml | CCOCC | C4H10O
product | 4-(o-methylthiobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid | CC1=C(C(=S)C2=CC3=C(C(=C3)C(=O)O)C=C2O)C=CC=C1 | C17H12O3S
